US05840732
iv) Synthesis of 5-(5-hydroxy-3,3-dimethylpentylthio)imidazo[1,2-a]pyridine
To a solution of 0.71 g (1.85 mmol) of 5-(5-benzyloxymethyloxy-3,3-dimethylpentylthio)imidazo[1,2-a]pyridine in 10 ml of methanol, 0.33 ml (4.0 mmol) of concentrated hydrochloric acid was added, followed by stirring at 60° C. for 3 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in 10 ml of water; 3 ml of 1N aqueous sodium hydroxide was added. To this mixture, 1N hydrochloric acid was added to pH 5-6. The mixture was extracted with dichloromethane and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4→ethyl acetate) to yield 350 mg (71.6%, white crystal) of the desired product.

reactant | 5-(5-benzyloxymethyloxy-3,3-dimethylpentylthio)imidazo[1,2-a]pyridine | 1.85 mmol, 0.71 g | C(C1=CC=CC=C1)OCOCCC(CCSC1=CC=CC=2N1C=CN2)(C)C | C22H28N2O2S
reactant | hydrochloric acid | 4.0 mmol, 0.33 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-(5-hydroxy-3,3-dimethylpentylthio)imidazo[1,2-a]pyridine | OCCC(CCSC1=CC=CC=2N1C=CN2)(C)C | C14H20N2OS
